US05110921
Ethyl (2-formamido-5-chlorothiazol-4-yl) glyoxylate (14.5 g) was added to a solution of 1N aqueous potassium hydroxide (110 ml) at ambient temperature, and the mixture was stirred for 10 minutes to prepare the solution of potassium (2-formamido-5-chlorothiazol-4-yl) glyoxylate. After this solution was adjusted to pH 2 with 10% hydrochloric acid under ice-cooling, thereto were added pyridine (20 ml) and a solution of tert-butyl 2-aminooxyacetate (10.3 g) in tetrahydrofuran (50 ml), followed by stirring at ambient temperature for 5 hours. After the reaction mixture was washed with ethyl acetate, the remaining aqueous solution was adjusted to pH 1.5 with 10% hydrochloric acid and extracted with ethyl acetate. The extract was washed with an aqueous sodium chloride and then dried over magnesium sulfate. Removal of the solvent gave 2-tert-butoxycarbonylmethoxyimino-2-(2-formamido-5-chlorothiazol-4-yl) acetic acid (syn isomer) (8.5 g).

reactant | potassium hydroxide | 1N, 110 ml | [OH-].[K+]
reactant | potassium (2-formamido-5-chlorothiazol-4-yl) glyoxylate | C(C=O)(=O)OC=1N=C(SC1Cl)NC=O.[K]
reactant | hydrochloric acid | Cl | ClH
reactant | tert-butyl 2-aminooxyacetate | 10.3 g | NOCC(=O)OC(C)(C)C | C6H13NO3
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-tert-butoxycarbonylmethoxyimino-2-(2-formamido-5-chlorothiazol-4-yl) acetic acid | 8.5 g | C(C)(C)(C)OC(=O)CON=C(C(=O)O)C=1N=C(SC1Cl)NC=O | C12H14ClN3O6S
